US04478849
3,5-Dibenzyloxyphenyl glyoxal
The title compound was prepared as a hydrate by the process of Description 54, replacing 1-(4-benzyloxy-3-hydroxymethylphenyl)ethanone. by 1-(3,5-dibenzyloxyphenyl)ethanone. γ(CDCl3) 6.40 (2H, s) 5.00 (4H, s), 2.40-3.50 (14H, m).

reactant | 1-(4-benzyloxy-3-hydroxymethylphenyl)ethanone | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(C)=O)CO | C16H16O3
reactant | 1-(3,5-dibenzyloxyphenyl)ethanone | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)OCC1=CC=CC=C1)C(C)=O | C22H20O3
product | 3,5-Dibenzyloxyphenyl glyoxal | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)OCC1=CC=CC=C1)C(=O)C=O | C22H18O4
